US05061706
0.10 g (0.4 mmol) N-ethoxalyl-4-methoxy-2-nitroaniline in 10 ml dimethylformamide was hydrogenated at atm. pressure by using 5% Pt-C (0.01 g) as a catalyst. The reaction mixture was filtered and 10 ml 1N hydrochloric acid was added. The reaction mixture was cooled to 0° C. and the precipitate was filtered off, washed with water, ethanol and ether to give 0.03 g (39%) of 1-hydroxy-7-methoxyquinoxaline-2,3(1H,4H)-dione. M.p. decomp. 1H-NMR (DMSO-d6): 12.0 (broad s), 7.0 (3H, m), 3.8 (3H, s). MS (m/e): 208 (M+, 70%), 163 (100%).

reactant | N-ethoxalyl-4-methoxy-2-nitroaniline | 0.4 mmol, 0.10 g | C(=O)(C(=O)OCC)NC1=C(C=C(C=C1)OC)[N+](=O)[O-] | C11H12N2O6
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
catalyst | Pt-C | 0.01 g | [Pt] | Pt
product | 1-hydroxy-7-methoxyquinoxaline-2,3(1H,4H)-dione | 0.03 g, 39% | ON1C(C(NC2=CC=C(C=C12)OC)=O)=O | C9H8N2O4
